US06613942B1
3-Formylindole (10.0 g, 69 mmoles) was dissolved in DMF (100 ml). Under N2 was a 60% suspension of NaH in mineral oil (3.0 g) added in portions with cooling (temp<15° C.). At <15° C. was a solution of ethyl bromoacetate (8.4 ml) in DMF (15 ml) added drop wise over 30 minutes. The resulting mixture was stirred at room temperature for 16 hours and evaporated in vacuo. The residue was added water (300 ml) and extracted with ethyl acetate (2×150 ml), the combined organic extracts were washed with satd. NH4Cl, dried (MgSO4) and concentrated to afford 15.9 g ethyl (3-formylindolyl)acetate.

reactant | 3-Formylindole | 69 mmoles, 10.0 g | C(=O)C1=CNC2=CC=CC=C12 | C9H7NO
reactant | NaH | [H-].[Na+]
reactant | ethyl bromoacetate | 8.4 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | ethyl (3-formylindolyl)acetate | 15.9 g | C(=O)C1=C(NC2=CC=CC=C12)CC(=O)OCC | C13H13NO3
